US09238640B2
4-Hydroxypiperidine-1-carboxylic acid dimethylamide (1.45 g, 8.40 mmol), 4-hydroxbenzenaldehyde (1.02 g, 8.40 mmol) and triphenylphosphine (3.31 g, 12.6 mmol) were stirred in THF (6 mL). Diisopropylazodicarboxylate (2.51 mL, 12.6 mmol) was added dropwise to the reaction mixture at room temperature over the course of 5 minutes. The mixture was stirred at room temperature for 21 hours, concentrated, and purified by column chromatography (SiO2, hexanes/ethyl acetate=1:1 to neat ethyl acetate), to afford 4-(4-formylphenoxy)-piperidine-1-carboxylic acid dimethylamide a white solid. Yield: 0.7 g (30%).

reactant | 4-Hydroxypiperidine-1-carboxylic acid dimethylamide | 8.40 mmol, 1.45 g | CN(C(=O)N1CCC(CC1)O)C | C8H16N2O2
reactant | triphenylphosphine | 12.6 mmol, 3.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropylazodicarboxylate | 12.6 mmol, 2.51 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-(4-formylphenoxy)-piperidine-1-carboxylic acid dimethylamide | CN(C(=O)N1CCC(CC1)OC1=CC=C(C=C1)C=O)C | C15H20N2O3
